US04940710
1-Ethyl-6-fluoro 1,4-dihydro-7-[3-[(4-methyl-1-piperazinyl)methyl]-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A 425 mg portion of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 1.25 g of 1-methyl-4-(2-piperazinylmethyl)piperazine were suspended in 5 ml of pyridine and heated at reflux, under argon, for 18 hours. The solvents were removed and the residue evaporated twice from toluene. The residue was dissolved in dichloromethane, hexane was added, the resulting gum was separated, dissolved in dichloromethane and filtered. Ether was added to the filtrate, the resulting solid collected and recyrstallized, giving 360 mg of the desired product as a yellow solid.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
reactant | 1-methyl-4-(2-piperazinylmethyl)piperazine | 1.25 g | CN1CCN(CC1)CC1NCCNC1 | C10H22N4
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro 1,4-dihydro-7-[3-[(4-methyl-1-piperazinyl)methyl]-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 360 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)CN1CCN(CC1)C)F)=O)C(=O)O | C22H30FN5O3
